US08067426B2
Intermediate 71: 8-Bromo-N2-[(1R)-1-methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine
N-Bromosuccinimide (2.08 g, 11.69 mmol) was added portionwise to a stirred solution of N2-[(1R)-1-methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine (2.27 g, 7.46 mmol) in chloroform (30 ml) at 0° C. under at atmosphere of nitrogen. The reaction mixture was allowed to stir for 1.5 hours when chloroform (20 ml) and water (50 ml) were added. After mixing the layers were separated using a hydrophobic frit, the aqueous layer was washed with an additional portion of chloroform and the combined organic extracts were evaporated. The residue was dissolved in dichloromethane and purified on a 110 g aminopropyl (NH2) cartridge using a 0-100% ethyl acetate in cyclohexane gradient over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as an off-white foam (0.846 g).

reactant | N-Bromosuccinimide | 11.69 mmol, 2.08 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N2-[(1R)-1-methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | 7.46 mmol, 2.27 g | C[C@H](CCC)NC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H24N6O
reactant | water | 50 ml | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-N2-[(1R)-1-methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | 0.846 g | BrC=1N(C2=NC(=NC(=C2N1)N)N[C@@H](CCC)C)C1OCCCC1 | C15H23BrN6O
